US09403839B2
4-Bromo-3-methoxy-benzoic acid (2.00 g, 8.67 mmol) was dissolved in THF (50 mL) and the solution was cooled to −78° C. n-BuLi in hexanes (7.6 mL of 2.5 M, 19 mmol) was added dropwise over 15 minutes. The reaction mixture was allowed to stir for 30 minutes at −78° C. and then acetone (640 μL, 8.9 mmol) was added in a dropwise manner. The reaction mixture was allowed to stir for 30 minutes at −78° C., and then it was allowed to warm to room temperature. The reaction mixture was then diluted with 100 mL of 1M aqueous sodium hydroxide. The organic layer was discarded and the aqueous layer was made acidic with 4M aqueous hydrochloric acid. The aqueous layer was then extracted 3 times with ethyl acetate. The combined extracts were dried over sodium sulfate and then evaporated to dryness. The crude material was purified by column chromatography utilizing a gradient of 0-5% methanol in dichloromethane to give 4-(2-hydroxypropan-2-yl)-3-methoxybenzoic acid (618 mg, 34%). ESI-MS m/z calc. 210.1, found 209.1 (M−1)−; Retention time: 0.68 minutes (3 min run).

reactant | 4-Bromo-3-methoxy-benzoic acid | 8.67 mmol, 2.00 g | BrC1=C(C=C(C(=O)O)C=C1)OC | C8H7BrO3
reactant | n-BuLi | [Li]CCCC
reactant | acetone | 8.9 mmol, 640 μL | CC(=O)C | C3H6O
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 1M, 100 mL | [OH-].[Na+]
product | 4-(2-hydroxypropan-2-yl)-3-methoxybenzoic acid | 618 mg, 34% | OC(C)(C)C1=C(C=C(C(=O)O)C=C1)OC | C11H14O4
